US05965562
a) N-[1-(4-Chloro-benzyl)-but-3-enyl]-N-ethoxymethyl-carbamic acid methyl ester
A suspension of 10.0 g of sodium hydride (80% in mineral oil, 333 mmol) in dry tetrahydrofuran [THF] is heated at reflux under argon. A solution of 60.5 g (238 mmol) of [1-(4-chloro-benzyl)-but-3-enyl]-carbamic acid methyl ester [McCarty F J, Rosenstock P D, Paolini J P, Micucci D D, Ashton L, Bennetts W W, J. Med. Chem, 1968, 11(3),534] in 50 ml of dry THF is added dropwise thereto in the course of 1 hour. The mixture is then boiled under reflux for 2 hours until the evolution of gas subsides. The mixture is cooled to 0° C. and chloromethyl ethyl ether is added dropwise in such a manner that the reaction temperature does not exceed 5° C. The mixture is then heated slowly to 25° C. and stirred for 12 hours to complete the reaction. Excess sodium hydride is destroyed carefully with 1 ml of water before more water is added. The phases are separated and the aqueous phase is extracted again with tert-butyl methyl ether. The combined organic phases are washed with brine, dried over sodium sulfate, and concentrated by evaporation. The crude product is distilled at 0.1 mbar and has a boiling range of 120-125° C. TLC: ethyl acetate/hexane (1:6) Rf =0.34, FD-MS: M+ =311 (313).

reactant | sodium hydride | 333 mmol, 10.0 g | [H-].[Na+]
reactant | [1-(4-chloro-benzyl)-but-3-enyl]-carbamic acid methyl ester | 238 mmol, 60.5 g | COC(NC(CC=C)CC1=CC=C(C=C1)Cl)=O | C13H16ClNO2
reactant | chloromethyl ethyl ether | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | N-[1-(4-Chloro-benzyl)-but-3-enyl]-N-ethoxymethyl-carbamic acid methyl ester | COC(N(COCC)C(CC=C)CC1=CC=C(C=C1)Cl)=O | C16H22ClNO3
